US07432270B2
d) (S) 2-Aminomethyl-piperidine-1-carboxylic acid tert butyl ester
(S)-2-[(2,2,2-Trifluoro-ethanoylamino)-methyl]-piperidine-1-carboxylic acid tert butyl ester (18.2 g) was dissolved in methanol (500 ml) and treated with potassium carbonate (16.1 g). After stirring for 16 h solvent was removed at reduced pressure and the residue partitioned between dichloromethane/water. The organic phase was separated, washed with brine, dried and solvent removed at reduced pressure, the residue was column chromatographed (silica gel, 0-10% (9:1 methanol/ammonia) in dichloromethane eluant) to give the title compound (8.82 g) of description 1.

reactant | (S)-2-[(2,2,2-Trifluoro-ethanoylamino)-methyl]-piperidine-1-carboxylic acid tert butyl ester | 18.2 g | C(C)(C)(C)OC(=O)N1[C@@H](CCCC1)CNC(C(F)(F)F)=O | C13H21F3N2O3
reactant | potassium carbonate | 16.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 500 ml | CO | CH4O
product | 2-Aminomethyl-piperidine-1-carboxylic acid tert butyl ester | 8.82 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CN | C11H22N2O2
